Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug) / Cephalosporins
 
Attending: ___
 
Chief Complaint:
Abdominal pain and blood per-rectum
 
Major Surgical or Invasive Procedure:
flexible sigmoidoscopy

 
History of Present Illness:
___ hx sarcoidosis, CAD, HTN and COPD p/w crampy abdominal
pain and BRBPR starting ~1200 noon day of presentation. 
Initially
one episode of soft dark stools, then ___ episodes BRBPR, last 
in
ED. Reports nausea without emesis.  Last colonoscopy ___ years
prior with report of 'benign polyps', no history of
diverticulosis or GIB, no history of atrial fibrillation.  WBC
18.5, hematocrit 42.7, lactate 2.9, CTAP with mural colonic
thickening in ___ distribution, patent ___ with significant but
non-flow limiting calcified atherosclerotic disease at the ___
take-off with patent ___ and normal colonic mucosa enhancement.

At time of consultation, pt AFVSS with obscured abdominal exam 
in
setting of significant pannus and recent narcotic 
administration.
 
Past Medical History:
sarcoidosis, CAD, COPD, HTN

PSH: TAH 

ALL: Sulfa
 
Social History:
___
Family History:
CAD. Denies CRC, IBD.  Mother: lung CA, Father: lung CA
 
Physical Exam:
VS: T 97.8, HR 87, BP 115/98, RR 18, SaO2 99%rm air
GEN: NAD, A/Ox3
HEENT: MMM
CV: regular
PULM: CTAB
BACK: No CVAT
ABD: obese, dull tenderness elicited in LUQ on deep palpation, 
no
rebound or guarding. [unreliable exam in setting of recent
narcotic administration]. 
PELVIS: DRE - nl tone, no stool, blood on tip of examination
glove
EXT: warm
 
Pertinent Results:
___ 08:00PM BLOOD WBC-18.5* RBC-4.83 Hgb-13.3 Hct-42.7 
MCV-88 MCH-27.5 MCHC-31.1* RDW-13.7 RDWSD-44.1 Plt ___
___ 08:00PM BLOOD Neuts-85.5* Lymphs-9.3* Monos-4.2* 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-15.79* AbsLymp-1.71 
AbsMono-0.77 AbsEos-0.00* AbsBaso-0.07
___ 08:00PM BLOOD Glucose-116* UreaN-25* Creat-0.8 Na-137 
K-4.2 Cl-98 HCO3-27 AnGap-16
___ 09:26PM BLOOD Lactate-2.9*
___ 04:06AM BLOOD Lactate-1.6
___ 06:02AM BLOOD WBC-23.3* RBC-3.60* Hgb-10.1* Hct-32.9* 
MCV-91 MCH-28.1 MCHC-30.7* RDW-14.2 RDWSD-47.8* Plt ___
___ 07:55AM BLOOD WBC-17.3* RBC-4.26 Hgb-11.6 Hct-38.7 
MCV-91 MCH-27.2 MCHC-30.0* RDW-14.2 RDWSD-47.3* Plt ___
___ 05:50AM BLOOD Glucose-84 UreaN-11 Creat-0.7 Na-142 
K-4.1 Cl-106 HCO3-29 AnGap-11
 
Brief Hospital Course:
The patient presented to Emergency Department on ___. Pt was 
evaluated by upon arrival to ED.  Given findings and concern for 
acute ischemia, the patient was taken for CT of abdomen and 
pelvis which demonstrated "Marked wall thickening of distal 
transverse colon and descending colon with adjacent fat 
stranding consistent with
colitis. No free air or free fluid in abdomen or pelvis. No 
fluid
collections." The patient was then transferred to the ward for 
observation, colonoscopy, serial abdominal exams, empiric 
antibiotics (Zosyn).
 
Neuro: The patient was alert and oriented throughout 
hospitalization; optimal pain control was ultimately achieved 
with oral vicodin which patient takes at home. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. 
GI/GU/FEN: The patient was initially kept NPO. On HD2 patient 
received bowel prep and went of flexible sigmoidoscopy with 
biopsy by gastroenterology.  Findings werw patchy
erythema and scattered ulcers considered not classic for 
ischemic colitis. Biopsies confirmed mild ischemic colitis with 
chronic changes. Lact and WBC downtrended from 2.9--> 1.6 and 
18-->16, respectively and the patient's symptoms gradually 
improved. Diet was advanced sequentially to a Regular diet, 
which was well tolerated on HD 3. Patient's intake and output 
were closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. Stool was sent for cultures 
and O&P which resulted negative, no campylobacter, salmonella, 
shigella, or e. coli O157:H7. CMV PCR, BCx and UCx also were 
negative.
HEME: The patient's blood counts were closely watched for signs 
of bleeding. The patient continued to have small amounts of 
bloody BMs through HD2. Her H&H remained stable thereafter.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  Patient was discharged with 
PO augmentin and instructions to follow-up in ___ clinic.

 
Medications on Admission:
ASA 81, Lipitor, Atenolol, Albuterol, Symbicort, Enalipril,
Verapamil, APAP
 
Discharge Medications:
1. Amoxicillin-Clavulanic Acid ___ mg PO Q8H Duration: 14 Days 
Please stop taking medication and call your doctor or 911 if you 
have hives or difficulty breathing. 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth every eight (8) hours Disp #*42 Tablet Refills:*0
2. Atenolol 50 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Docusate Sodium 100 mg PO BID 
Do not take if you are having diarrhea 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
5. Enalapril Maleate 5 mg PO DAILY 
6. Gabapentin 300 mg PO TID 
7. Hydrocodone-Acetaminophen (5mg-325mg) ___ TAB PO Q8H pain 
please do not take if you are sedated or breathing less than 8 
times per minute 
RX *hydrocodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every eight (8) hours Disp #*40 Tablet Refills:*0
8. Senna 8.6 mg PO BID:PRN constipation 
Do not take if you are having diarrhea 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*30 Capsule Refills:*0
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Topiramate (Topamax) 50 mg PO BID 
11. Verapamil 120 mg PO Q8H 
12. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
please do not take if you are sedated or breathing less than 8 
times per minute 
RX *tramadol 50 mg 1 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fulminant segmental colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ and 
underwent flexible sigmoidoscopy and treatment with antibiotics. 
You are recovering well and are now ready for discharge. Please 
follow the instructions below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 
Followup Instructions:
___